US09376422B2
2-methyl-5-(trifluoromethyl)benzoic acid (4 g, 19.6 mmol) was added to cooled conc. H2SO4 (27 mL) at −10° C. in small portions. After 10 minutes nitrating mixture {prepared by mixing conc. HNO3 (2.77 g, 44.44 mmol) with conc.H2SO4 (3.6 mL)} was added drop wise at −10° C. The resulting solution was stirred at −10° C. for 30 minutes. On completion, the reaction mixture was poured into ice cold water. The solid was filtered, washed with water and dried under vacuum to give 2-methyl-3-nitro-5-(trifluoromethyl)benzoic acid (4.95 g, 99%).

reactant | 2-methyl-5-(trifluoromethyl)benzoic acid | 19.6 mmol, 4 g | CC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C9H7F3O2
reactant | H2SO4 | 27 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 44.44 mmol, 2.77 g | [N+](=O)(O)[O-] | HNO3
reactant | H2SO4 | 3.6 mL | OS(=O)(=O)O | H2O4S
product | 2-methyl-3-nitro-5-(trifluoromethyl)benzoic acid | 4.95 g, 99% | CC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])C(F)(F)F | C9H6F3NO4
